US08227504B2
3,4-Dihydroxy-2,2-dimethyl-chroman-6-carboxylic acid {2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-amide
The title compound was prepared in a manner substantially the same as Example 1 by coupling 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine with 3,4-Dihydroxy-2,2-dimethyl-chroman-6-carboxylic acid. MS: 494.6 (M+H).

reactant | 2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenylamine | CC1=C(C=CC(=C1)N1CC(CC1)CN1C(CCC1)C)N | C17H27N3
reactant | 3,4-Dihydroxy-2,2-dimethyl-chroman-6-carboxylic acid | OC1C(OC2=CC=C(C=C2C1O)C(=O)O)(C)C | C12H14O5
product | 3,4-Dihydroxy-2,2-dimethyl-chroman-6-carboxylic acid {2-methyl-4-[3-(2-methyl-pyrrolidin-1-ylmethyl)-pyrrolidin-1-yl]-phenyl}-amide | CC1=C(C=CC(=C1)N1CC(CC1)CN1C(CCC1)C)NC(=O)C=1C=C2C(C(C(OC2=CC1)(C)C)O)O | C29H39N3O4
